US07795437B2
2-Chloro-6-(piperidin-4-yloxy)-benzonitrile hydrochloride was prepared in a manner analogous to that described in example 59.2 from 2-chloro-6-fluoro-benzonitrile and 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester. White solid. MS (m/z): 237.0 ([M+H]+).

reactant | 2-chloro-6-fluoro-benzonitrile | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
product | 2-Chloro-6-(piperidin-4-yloxy)-benzonitrile hydrochloride | Cl.ClC1=C(C#N)C(=CC=C1)OC1CCNCC1 | InChI=1S/C12H13ClN2O.ClH/c13-11-2-1-3-12(10(11)8-14)16-9-4-6-15-7-5-9;/h1-3,9,15H,4-7H2;1H
